US04753933
Tert-butoxybis(dimethylamino)methane (28 g) is added to a suspension composed of N-(7-methyl-1,8-naphthyridin-2-yl)-4-methoxybenzamide (12 g) and anhydrous dimethylformamide (12 cc). The mixture is stirred for 3 hours at 130° C. The solution obtained is poured into water (100 cc) and the mixture extracted with methylene chloride (200 cc). The organic extracts are washed with water (2×100 cc), dried over magnesium sulphate and concentrated to dryness at 50° C. under reduced pressure (0.5 kPa). The amorphous residue obtained is dissolved in boiling carbon tetrachloride (100 cc). A solid is precipitated by slowly adding isopropyl ether (150 cc). The crystallized solid obtained is separated by filtration, washed with isopropyl ether (30 cc) and dried in the air. The base obtained (9.2 g; m.p. approximately 110° C.) is dissolved in ethanol (150 cc) and a 4.7N solution (20 cc) of hydrochloric acid in ethyl ether is added. The precipitate obtained is separated by filtration, washed with ethyl ether (3×30 cc) and dried at 25° C. under reduced pressure (4 kPa). The crude hydrochloride obtained is purified by recrystallization in ethanol (160 cc). N-[7-(2-Dimethylaminovinyl)-1,8-naphthyridin-2-yl]-4-methoxybenzamide in the hydrochloride state (6 g), m.p. 240° C., is thereby obtained.

reactant | Tert-butoxybis(dimethylamino)methane | 28 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | N-(7-methyl-1,8-naphthyridin-2-yl)-4-methoxybenzamide | 12 g | CC1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)OC)=O | C17H15N3O2
reactant | dimethylformamide | 12 cc | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 150 cc | C(C)O | C2H6O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | carbon tetrachloride | 100 cc | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 100 cc | O | H2O
product | N-[7-(2-Dimethylaminovinyl)-1,8-naphthyridin-2-yl]-4-methoxybenzamide | CN(C=CC1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)OC)=O)C | C20H20N4O2
